US06211234B1
A stirred solution of ethyl (RS)-5-(3-benzylthiophenyl)-4-(2-methylphenyl)-5-oxopentanoate (0.56 g) and 1 N sodium hydroxide (3.4 mL) in dioxan (11 mL) is heated at 70° C. for 1.5 hours. The reaction mixture is evaporated and the residue dissolved in water (6 mL). The pH of the solution is adjusted to pH 1 by addition of 2 N hydrochloric acid and the mixture extracted with ether (20 mL). The organic phase is washed twice with water (6 mL), dried over magnesium sulphate and evaporated. The residual orange oil (0.59 g) is triturated with pentane and crystallised from cyclohexane to give (RS)-5-(3-benzylthiophenyl)-4-(2-methylphenyl)-5-oxopentanoic acid hemihydrate as a pale yellow solid (0.37 g), m.p.105-107° C. [Elemental analysis:- C,72.4; H,5.94%. Calculated for C25H24O3S.0.5H2O:- C,72.4; H,5.91%].

reactant | ethyl (RS)-5-(3-benzylthiophenyl)-4-(2-methylphenyl)-5-oxopentanoate | 0.56 g | C(C1=CC=CC=C1)SC=1C=C(C=CC1)C(C(CCC(=O)OCC)C1=C(C=CC=C1)C)=O | C27H28O3S
reactant | sodium hydroxide | 1 N, 3.4 mL | [OH-].[Na+]
solvent | dioxan | 11 mL | O1CCOCC1 | C4H8O2
product | (RS)-5-(3-benzylthiophenyl)-4-(2-methylphenyl)-5-oxopentanoic acid hemihydrate | 0.37 g | O.C(C1=CC=CC=C1)SC=1C=C(C=CC1)C(C(CCC(=O)O)C1=C(C=CC=C1)C)=O.C(C1=CC=CC=C1)SC=1C=C(C=CC1)C(C(CCC(=O)O)C1=C(C=CC=C1)C)=O | InChI=1S/2C25H24O3S.H2O/c2*1-18-8-5-6-13-22(18)23(14-15-24(26)27)25(28)20-11-7-12-21(16-20)29-17-19-9-3-2-4-10-19;/h2*2-13,16,23H,14-15,17H2,1H3,(H,26,27);1H2
